US06218404B1
Preparation of 4-Benzyl-1-(3-aminopropyl)piperidine (68)
To a solution of 4-benzyl-1-(3-azidopropyl)piperidine (0.14 g, 0.54 mmol) in methanol (5 mL) was added Pd/C 5% (6 mg) and the resulting heterogeneous mixture was hydrogenated at 1 atm for 4 h. then filtered through a celite pad and concentrated in vacuum. The crude compound was purified by trituration with diethyl ether (5 mL) to give the title compound as a white solid (0.075g, 60%), mp 140-141° C. 1H-NMR (DMSO): 1.05-1.21 (m, 2H), 1.35-1.55 (m, 3H), 1.55-1.70 (m, 2H), 1.746 (t, J=11.1 Hz, 2H), 2.281 (t, J=6.6 Hz, 2H), 2.4-2.5 (m, 2H), 2.5-2.85 (m, 4H), 7.06-7.18 (m, 3H), 7.23 (t, J=7.2 Hz, 2H), 7.8 (bs, 2H).

reactant | 4-benzyl-1-(3-azidopropyl)piperidine | 0.54 mmol, 0.14 g | C(C1=CC=CC=C1)C1CCN(CC1)CCCN=[N+]=[N-] | C15H22N4
solvent | methanol | 5 mL | CO | CH4O
catalyst | Pd/C | 6 mg | [Pd] | Pd
product | 4-Benzyl-1-(3-aminopropyl)piperidine | 0.075g, 60% | C(C1=CC=CC=C1)C1CCN(CC1)CCCN | C15H24N2
